US04325953
2-(1-Methyl-4-phenyl-4-piperidinyloxy)pyrazine
A solution of 1-methyl-4-phenyl-4-piperidinol (7.65 g, 40 mM), in DMSO (100 ml) was treated with 50% sodium hydride dispersion (2.0 g, 40 mM) and the mixture warmed to 80° until a clear solution was obtained. After cooling to room temperature a solution of 2-chloropyrazine (5.6 g, 40 mM) in DMSO (10 ml) was added. After 48 hours the reaction mixture was poured on to water (400 ml), extracted with ether (3×250 ml), the organic phase dried and the solvents removed under reduced pressure. Recrystallisation of the residue from cyclohexane gave recovered 1-methyl-4-phenyl-4-piperidinol (2 g). Chromatography of the mother liquors on Grade III silica using 3% methanol in chloroform as eluant, evaporation of the appropriate fractions and recrystallisation from pentane gave the title compound (1.2 g) m.p. 115°-6° C.

reactant | 1-methyl-4-phenyl-4-piperidinol | 40 mM, 7.65 g | CN1CCC(CC1)(O)C1=CC=CC=C1 | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloropyrazine | 40 mM, 5.6 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | water | 400 ml | O | H2O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-(1-Methyl-4-phenyl-4-piperidinyloxy)pyrazine | 1.2 g | CN1CCC(CC1)(OC1=NC=CN=C1)C1=CC=CC=C1 | C16H19N3O
